US07989634B2
Step C: (3S)-3-[cyclohexyl(acetyloxypivaloyl)amino]pyrrolidine
To a solution of (3S)-1-Cbz-3-[cyclohexyl (acetyloxypivaloyl)amino]pyrrolidine (1.00 g, 2.25 mmol), prepared in Step B, in dioxane (10 mL) was added portionwise Pd/C (200 mg), and the mixture was stirred for 12 h under hydrogen. The reaction solution was filtered though Celite and the filtratae concentrated to give the title compound (657 mg, 84%).

reactant | (3S)-1-Cbz-3-[cyclohexyl (acetyloxypivaloyl)amino]pyrrolidine | 2.25 mmol, 1.00 g | C(=O)(OCC1=CC=CC=C1)N1C[C@H](CC1)N(C(C(COC(C)=O)(C)C)=O)C1CCCCC1 | C25H36N2O5
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | (3S)-3-[cyclohexyl(acetyloxypivaloyl)amino]pyrrolidine | 657 mg, 84% | C1(CCCCC1)N([C@@H]1CNCC1)C(C(COC(C)=O)(C)C)=O | C17H30N2O3
